US04404222
Alternate Procedure for 4-Amino-3,5-dichloro-β-methoxyphenethylamine hydrochloride
In 100 ml of methanol, 10 g of 4-amino-α-[(tert-butylamino)methyl]-3,5-dichlorobenzyl alcohol is stirred in an ice bath and dry HCl gas is introduced into the solution. After saturation of the solution, the mixture is stirred at room temperature for an hour and evaporated to dryness. The solid is then stirred in ethyl acetate to afford the title product, which is collected by filtration.

reactant | 4-amino-α-[(tert-butylamino)methyl]-3,5-dichlorobenzyl alcohol | 10 g | NC1=C(C=C(C(CNC(C)(C)C)O)C=C1Cl)Cl | C12H18Cl2N2O
reactant | HCl | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | 4-Amino-3,5-dichloro-β-methoxyphenethylamine hydrochloride | Cl.NC1=C(C=C(C(CN)OC)C=C1Cl)Cl | InChI=1S/C9H12Cl2N2O.ClH/c1-14-8(4-12)5-2-6(10)9(13)7(11)3-5;/h2-3,8H,4,12-13H2,1H3;1H
